US07888364B2
250 mg of 5-(methoxycarbonyl)picolinic acid was coupled to pyridin-2-ylmethanamine via Procedure G. Crude methyl 6-(pyridin-2-ylmethylcarbamoyl)nicotinate was hydrolyzed via Procedure M to yield 250 mg of 6-(pyridin-2-ylmethylcarbamoyl)nicotinic acid. 60 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 6-(pyridin-2-ylmethylcarbamoyl)nicotinic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield N5-(4-chloro-3-(pyridin-2-yl)phenyl)-N2-(pyridin-2-ylmethyl)pyridine-2,5-dicarboxamide. MS (Q1) 444.1 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 60 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 6-(pyridin-2-ylmethylcarbamoyl)nicotinic acid | N1=C(C=CC=C1)CNC(=O)C1=NC=C(C(=O)O)C=C1 | C13H11N3O3
product | N5-(4-chloro-3-(pyridin-2-yl)phenyl)-N2-(pyridin-2-ylmethyl)pyridine-2,5-dicarboxamide | ClC1=C(C=C(C=C1)NC(=O)C=1C=CC(=NC1)C(=O)NCC1=NC=CC=C1)C1=NC=CC=C1 | C24H18ClN5O2
